US08084489B2
A solution of 5-[1-allyl-1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-thiophene-2-carboxylic acid methyl ester (0.292 g, 0.567 mmol) in CH2Cl2 (270 mL) is treated with [1,3-bis-(2,4,6-trimethylphenyl)-2-imidazolidinylidene)dichloro(phenylmethylene)-(tricyclohexylphosphine)ruthenium] (0.0528 g, 0.0622 mmol) for 4 h and concentrated. The residue is loaded onto silica gel and eluted using hexanes with an ethyl acetate gradient from 0% to 40% to afford 5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-cyclopent-3-enyl]-thiophene-2-carboxylic acid methyl ester (0.240 g, 87%) as a colorless syrup. MS (ES): 487.4 [M+H]+.

reactant | 5-[1-allyl-1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-but-3-enyl]-thiophene-2-carboxylic acid methyl ester | 0.567 mmol, 0.292 g | COC(=O)C=1SC(=CC1)C(CC=C)(COC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C)CC=C | C29H29F3O3S
solvent | CH2Cl2 | 270 mL | C(Cl)Cl | CH2Cl2
catalyst | [1,3-bis-(2,4,6-trimethylphenyl)-2-imidazolidinylidene)dichloro(phenylmethylene)-(tricyclohexylphosphine)ruthenium | CC1=CC(=C(C(=C1)C)N2CCN(C2=[Ru](=CC3=CC=CC=C3)(Cl)Cl)C4=C(C=C(C=C4C)C)C)C.C1CCC(CC1)P(C2CCCCC2)C3CCCCC3
product | 5-[1-(2,6-dimethyl-4′-trifluoromethyl-biphenyl-4-yloxymethyl)-cyclopent-3-enyl]-thiophene-2-carboxylic acid methyl ester | 0.240 g, 87% | COC(=O)C=1SC(=CC1)C1(CC=CC1)COC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(F)(F)F)C | C27H25F3O3S
